US07691888B2
R-5) 1-Cyclopentylpiperidine-4-carboxylic acid
Catalytic quantities of p-toluenesulphonic acid (750 mg) and 12.5 ml of glacial acetic acid are added to a solution of ethyl piperidine-4-carboxylate (22.9 g, 145 mmol) and cyclopentanone (13.5 g, 160 mmol) in 400 ml of THF. After stirring at RT for 30 min, sodium triacetoxyborohydride (42 g, 190 mmol) is added in portions. The reaction mixture is stirred at RT for 15 h and, after evaporating, the residue is extracted by shaking with sodium carbonate solution and dichloromethane. The organic phase is dried, filtered and evaporated. Yield: 32 g of ethyl 1-cyclopentylpiperidine-4-carboxylate. The intermediate compound (1 g, 4.4 mmol) is then hydrolysed, in 10 ml of EtOH, at 80° C. for 15 h with 10 ml of NaOH (5 N). After having been cooled down, the reaction mixture is acidified and the resulting precipitate is filtered off.

reactant | p-toluenesulphonic acid | 750 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | ethyl piperidine-4-carboxylate | 145 mmol, 22.9 g | N1CCC(CC1)C(=O)OCC | C8H15NO2
reactant | cyclopentanone | 160 mmol, 13.5 g | C1(CCCC1)=O | C5H8O
reactant | sodium triacetoxyborohydride | 190 mmol, 42 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaOH | 5 N, 10 ml | [OH-].[Na+]
solvent | THF | 400 ml | C1CCOC1 | C4H8O
solvent | EtOH | 10 ml | CCO | C2H6O
solvent | acetic acid | 12.5 ml | C(C)(=O)O | C2H4O2
product | 1-Cyclopentylpiperidine-4-carboxylic acid | C1(CCCC1)N1CCC(CC1)C(=O)O | C11H19NO2
